US07598264B2
Step 3: 1-(4-Fluorobenzyl)-5,6-dihydropyridin-2-(1H)-one
To a solution of 1-(4-fluorobenzyl)-3-(phenylsulfinyl)piperidin-2-one (0.37 g, 1.11 mmol) in toluene (15 mL) was added solid Na2CO3 (2 g, 18.8 mmol). The reaction mixture was refluxed for about 6 hours. The resultant solution was filtered and concentrated under vacuum and the residue chromatographed on silica eluting with a gradient of 040% EtOAc/Hexanes to give the product as colorless glass.

reactant | 1-(4-fluorobenzyl)-3-(phenylsulfinyl)piperidin-2-one | 1.11 mmol, 0.37 g | FC1=CC=C(CN2C(C(CCC2)S(=O)C2=CC=CC=C2)=O)C=C1 | C18H18FNO2S
reactant | Na2CO3 | 18.8 mmol, 2 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(4-Fluorobenzyl)-5,6-dihydropyridin-2-(1H)-one | FC1=CC=C(CN2C(C=CCC2)=O)C=C1 | C12H12FNO
